### PR TITLE
[Merged by Bors] - feat(Data/Nat/Choose/Bounds): add ascFactorial and choose bounds by power of left index

### PR DESCRIPTION
**Pull request by b-mehta**
From exponential-ramsey. These bounds are slightly stronger than what's already there. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Factorial/Basic.lean [hunk 1]
```diff
@@ -289,6 +289,19 @@ theorem ascFactorial_le_pow_add (n : ℕ) : ∀ k : ℕ, (n + 1).ascFactorial k
...
+  | 0 => by simp
+  | j + 1 => by
+    rcases n.eq_zero_or_pos with rfl | hn
+    · simp [zero_ascFactorial]
+    rw [ascFactorial_succ, factorial_succ, pow_succ',
+      Nat.mul_assoc (j + 1), Nat.mul_left_comm j !, ← Nat.mul_assoc (j + 1)]
+    refine Nat.mul_le_mul ?_ (ascFactorial_le_factorial_mul_pow n j)
+    rw [add_one_mul, Nat.add_comm]
+    have : j ≤ j * n := Nat.le_mul_of_pos_right j hn
+    lia
```
Comment (tb65536) [inline Mathlib/Data/Nat/Factorial/Basic.lean]: Slightly cleaner?
```suggestion
    rw [add_one_mul, Nat.add_comm, Nat.add_le_add_iff_right]
    exact Nat.le_mul_of_pos_right j hn
```

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
